US06455548B2
Preparation of 4-(Methoxyethyl)piperidine
8.4 g (74.9 mmol) of potassium t-butoxide were suspended in 200 mL of THF. To this mixture at rt was slowly added a solution of 13.7 g (75.4 mmol) of trimethylphosphonoacetate in 20 mL of THF. After stirring for 30 min, a solution of 10 g (50.2 mmol) of 1-t-butoxycarbonyl-4-piperidone in 50 mL of THF was added and the mixture was heated to 60° C. for 3.5 h. To the reaction mixture was added 250 mL of a sat'd aqueous NH4Cl solution and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. Chromatography on silica eluting with hexane:ethyl acetate=4:1 gave the title compound.

reactant | potassium t-butoxide | 74.9 mmol, 8.4 g | CC(C)([O-])C.[K+]
reactant | trimethylphosphonoacetate | 75.4 mmol, 13.7 g | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 1-t-butoxycarbonyl-4-piperidone | 50.2 mmol, 10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | NH4Cl | 250 mL | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(Methoxyethyl)piperidine | COCCC1CCNCC1 | C8H17NO
